US08629133B2
Tert-butyl {1-[1H-benzotriazol-1-yl(imino)methyl]piperidin-4-yl}carbamate
A dichloromethane (50 ml) solution of tert-butyl piperidin-4-ylcarbamate (7.50 g, 37.9 mmol) was added dropwise to a dichloromethane (150 ml) solution of 1-(1H-benzotriazol-1-yl)-1-(2H-benzotriazol-2-yl)methanamine (J. Org. Chem. 2000, 65, 8080; and J. Org. Chem. 2003, 68, 4941) (10.0 g, 37.9 mmol) and the resulting mixture was stirred at room temperature for 3 days. 10% Aqueous sodium carbonate solution was added to the reaction mixture, followed by extraction with dichloromethane. The organic layer was washed with brine and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give 10.6 g (81%) of the title compound as an oil.

reactant | tert-butyl piperidin-4-ylcarbamate | 37.9 mmol, 7.50 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | 1-(1H-benzotriazol-1-yl)-1-(2H-benzotriazol-2-yl)methanamine | 37.9 mmol, 10.0 g | N1(N=NC2=C1C=CC=C2)C(N)N2N=C1C(=N2)C=CC=C1 | C13H11N7
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Tert-butyl {1-[1H-benzotriazol-1-yl(imino)methyl]piperidin-4-yl}carbamate | 10.6 g, 81% | N1(N=NC2=C1C=CC=C2)C(N2CCC(CC2)NC(OC(C)(C)C)=O)=N | C17H24N6O2
